Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Bactrim / Penicillins / E-Mycin
 
Attending: ___
 
Chief Complaint:
The pt is a ___ year-old right-handed
woman who presents with sudden onset of left sided flushing and
lightheadedness.  

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient reports taking her evening dose of amitriptyline and
then 30 minutes later having a ___ of a glass of champagne.  At
that time she developed a feeling of lightheadedness and a
metallic taste in her mouth.  She began to become flushed, with 
a
heat-like sensation running up the left side of her face as well
as down the arm.  She began to have a tightness and heaviness in
her chest and felt as though she might pass out.  She called to
her 2 daughters who were home and had them call EMS.  She denies
loss of vision, blurred vision, diplopia, dysarthria, dysphagia,
vertigo, tinnitus or hearing difficulty.  She reports an
occipital headache, ___, currently.  She denies difficulties
producing or comprehending speech.  Denies focal weakness, bowel
or bladder incontinence or retention. Denies difficulty with
gait. There was never any loss of consciousness.

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  She endorses chest tightness as
above but no palpitations.  Denies nausea, vomiting, diarrhea,
constipation or abdominal pain.  No recent change in bowel or
bladder habits.  No dysuria.  Denies arthralgias or myalgias.
Denies rash.

 
Past Medical History:
Asthma
Hypertension
Migraines 
Anxiety
TMJ- s/p multiple jaw revisions/surgeries
Hx of TBI in a motor vehicle accident ___ year ago- had apparent
seizures at the time secondary to concussion.  She was treated 
at
___.
s/p hemorrhoidectomy
s/p Left total hip replacement
s/p tonsillectomy

 
Social History:
___
Family History:
father had ___ in ___ and strokes later in life.
 
Physical Exam:
T= 97.1 BP= 160/78 HR= 95 RR= 20 O2= 100%

PHYSICAL EXAM
GENERAL: Anxious appearing
HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No
scleral icterus.  MMM. OP clear.  Neck Supple, No LAD, No
thyromegaly. No nuchal rigidity 
CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs,
rubs or ___.
LUNGS: CTAB, good air movement bilaterally.
ABDOMEN: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted. 
EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior
tibial pulses.
SKIN: No rashes/lesions, ecchymoses. 

Neurologic: 
-Mental Status: Alert, oriented to date, time and place.  Able 
to
relate history without difficulty.  Attentive, able to name ___
backward without difficulty.  Language is fluent with intact
repetition and comprehension.  There were no paraphasic errors. 
Pt. was able to name both high and low frequency objects.  Able
to read without difficulty.  Speech was not dysarthric. Able to
follow both midline and appendicular commands.  There was no
evidence of apraxia or neglect. 
  
-Cranial Nerves: 
I: Olfaction not tested.  
II: PERRL 4 to 3mm and brisk bilaterally.  VFF to confrontation.
Funduscopic exam revealed no papilledema, exudates, or
hemorrhages. 
III, IV, VI: EOMI without nystagmus.  Normal saccades. 
V: Facial sensation intact to light touch. 
VII: No facial droop, facial musculature symmetric. 
VIII: Hearing intact to finger-rub bilaterally.  
IX, X: Palate elevates symmetrically.  
XI: ___ strength in trapezii and SCM bilaterally. 
XII: Tongue protrudes in midline.
. 
-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. 
No adventitious movements, such as tremor, noted. No asterixis
noted. 
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___ 
L  5    ___   ___  5   5    5  5     5     5   5 
R  5    ___   ___  5   5    5  5     5     5   5 
 
-Sensory: diminished light touch and pinprick on left hemibody
from leg to shoulder, but patient constantly worrying that she 
is
not doing the exam right and changing her mind.  Deficit does no
cross the midline.
 
-DTRs: 
  Bi Tri ___ Pat Ach 
L  2  2    2    2   1 
R  2  2    2    2   1 
Plantar response was flexor bilaterally. 

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally. 
 
-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. Romberg
negative.

1a LOC = 0
1b Orientation = 0
1c Commands = 0
2 Gaze = 0
3 Visual Fields = 0
4 Facial Paresis =  0
5a Motor Function R UE = 0
5b Motor Function L UE= 0
6a Motor Function R ___ 0
6b Motor Function L ___ 0
7 Limb Ataxia =  0
8 Sensory perception =  1
9 Language = 0
10 Dysarthria =  0
11 Extinction/Inattention = 0
- 
TOTAL: 1

 
Pertinent Results:
___ 01:50AM   GLUCOSE-100 UREA N-16 CREAT-1.1 SODIUM-140 
POTASSIUM-3.7 CHLORIDE-103 TOTAL CO2-24 ANION GAP-17
___ 01:50AM   CK-MB-NotDone cTropnT-<0.01
___ 01:50AM   TRIGLYCER-225* HDL CHOL-42 CHOL/HDL-4.6 
LDL(CALC)-108
___ 01:50AM   WBC-13.7* RBC-4.39 HGB-12.1 HCT-36.0 MCV-82 
MCH-27.6 MCHC-33.6 RDW-13.5

CT Head/CTA head and neck:
No focal lesions. No hemorhage or edema. No vascular occlusion 

 
Brief Hospital Course:
Ms. ___ was assessed in the ED as a code stroke. Her exam 
there was non-focal and her NIHSS was 0. Her symptoms rapidly 
resolved in the ED but she then developed a mild HA. She 
underwent a CTA of the head and neck which revealed no evidence 
of stroke or vessel abnormalities. She remained asymptomatic and 
on later history reveals that her symptoms occurred in the 
context of significant stress and anxiety about her daughters 
scheduled departure for school the following day as well as 
anxiety the evening of presentation. Given her history, 
progression of symptoms, normal exam and normal vessel imaging, 
her episode was felt to be most likely due to a complicated 
migraine or panic attack. 
 
Medications on Admission:
Prilosec 20
Diltiazem 360
Lisinopril 10
Klonopin 0.5 QHS (did not take the last 2 nights)
Amitryptyline 10mg 
Triamterene-HCTZ ___ tablet daily
Azmacourt 4 puffs BID
Albuterol 2 puffs q4hours PRN

 
Discharge Medications:
1. Amitriptyline 10 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
2. Clonazepam 0.5 mg Tablet Sig: One (1) Tablet PO QHS (once a 
day (at bedtime)) as needed for insomnia.  
3. Citalopram 20 mg Tablet Sig: 0.5 Tablet PO DAILY (Daily).  
4. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
5. Diltiazem HCl 180 mg Capsule, Sustained Release Sig: Two (2) 
Capsule, Sustained Release PO DAILY (Daily).  
6. Lisinopril 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
7. Triamterene-Hydrochlorothiazid 37.5-25 mg Tablet Sig: ___ Cap 
PO DAILY (Daily).  
8. Azmacort 75 mcg/Actuation Aerosol Sig: One (1)  Inhalation 
four times a day as needed for allergy symptoms: 4 puffs(s) ih 
twice a day as needed for seasonal exacerbation of asthma - 
rinse mouth after use .  
9. Albuterol Sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
One (1)  Inhalation four times a day as needed: 2 puffs inhaled 
every four (4) hours as needed for cough or chest tightness .  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1) Complicated migraine

 
Discharge Condition:
Stable, no focal deficts

 
Discharge Instructions:
1) Please take all medications as prescribed
2) Please call your doctor if you develop new or worsening 
symptoms

 
Followup Instructions:
___